US05591752
2-Acetoxy-8-cyano-11-oxo-6,11-dihydrodibenz[b,e]oxepine
3 ml of trifluoroacetic anhydride and 0.48 g of a trifluoroboran-diethyl ether complex were added to 5.36 g of 2-(4-acetoxyphenoxy)methyl-4-cyanobenzoic acid obtained in Reference example 24 dissolved in 80 ml of methylene chloride and the mixture was stirred at room temperature for 8 hours. Water was added to the reaction mixture, the mixture was neutralized with a 1N-sodium hydroxide aqueous solution and crystals precipitated were extracted with chloroform. Then, the organic layer was dried over anhydrous sodium sulfate and the residue obtained by removing the solvent was applied to silica gel column chromatography to obtain 2.8 g of the title compound.

reactant | trifluoroacetic anhydride | 3 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2-(4-acetoxyphenoxy)methyl-4-cyanobenzoic acid | 5.36 g | C(C)(=O)OC1=CC=C(OCC2=C(C(=O)O)C=CC(=C2)C#N)C=C1 | C17H13NO5
reactant | Water | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 2-Acetoxy-8-cyano-11-oxo-6,11-dihydrodibenz[b,e]oxepine | 2.8 g | C(C)(=O)OC1=CC2=C(OCC3=C(C2=O)C=CC(=C3)C#N)C=C1 | C17H11NO4
